US04277394
(III) Production of BOC-Tyr-(D)-Met(O2)-Gly-Phe-NHNH-COCH3
Using BOC-(D)-Met(O2)-Gly-Phe-NHNH-COCH3 (0.52 g) and BOC-Tyr-ONB(0.46 g), the desired compound is obtained in a similar manner to (V) of Example 26. m.p. 176°-177° C. [α]D23 -2.9°(c=0.24, DMF), Rf1 =0.23.

reactant | BOC-(D)-Met(O2)-Gly-Phe-NHNH-COCH3 | 0.52 g | N([C@H](CCS(=O)(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OC(C)(C)C | C23H35N5O8S
reactant | BOC-Tyr-ONB | 0.46 g | CC(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C21H24N2O7
product | BOC-Tyr-(D)-Met(O2)-Gly-Phe-NHNH-COCH3 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCS(=O)(=O)C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OC(C)(C)C | C32H44N6O10S
